US05158947
EXAMPLE 29 Synthesis of 4-(5-(4-(4-chlorophenyl)1-piperidinyl)pentyl-2,3,4,5-tetrahydro-1,4-benzoxazepin-3-one
In 10 ml of dioxane was dissolved 65.2 mg of the compound prepared in Reference Example 2, then 123 mg (3 equivalents) of 4-(4-chlorophenyl)piperidine was added thereto, and the resulting mixture was stirred at 110° C. for 6 hours with heating. Thereafter, the same procedures for reaction, treatment and purification as used in Example 1 were repeated to give 46.7 mg (yield: 52.4%) of the title compound. The hydrochloride of this compound was obtained by converting the compound into hydrochloride in the usual manner, and then recrystallizing the salt from methylene chloride-ether.

reactant | 4-(4-chlorophenyl)piperidine | 123 mg, 3 equivalents | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 5-(4-(4-chlorophenyl)1-piperidinyl)pentyl-2,3,4,5-tetrahydro-1,4-benzoxazepin-3-one | 46.7 mg, yield: 52.4% | ClC1=CC=C(C=C1)C1CCN(CC1)CCCCCC1OC2=C(CNC1=O)C=CC=C2 | C25H31ClN2O2
